US09302991B2
<Step-2>: 2-methoxy-6-propionamido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (Example-81, single enantiomer)
The title compound is prepared in 39% yield (11.2 mg) from 2-amino-6-methoxy-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (25 mg, 0.068 mmol, single enantiomer, Step-1) and propionyl chloride (19 mg, 0.20 mmol) by the similar manner in Step-2 of Example-8.

reactant | 2-amino-6-methoxy-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 0.068 mmol, 25 mg | NC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C=C(N1)OC | C16H17F3N4O3
reactant | propionyl chloride | 0.20 mmol, 19 mg | C(CC)(=O)Cl | C3H5ClO
product | 2-methoxy-6-propionamido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 39% yield | COC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C=C(N1)NC(CC)=O | C19H21F3N4O4
